US05362878
N-(6-methylthioquinolin-5-yl)-2-hexylaminodecanamide
A mixture of N-(6-methylthioquinolin-5-yl)-2-bromodecanamide (200 mg, 0.47 mmol) and n-hexylamine (10 ml) was heated at 120° C. for 1 hour, cooled to room temperature, and chromatographed using 1:24:25/triethylamine:ethyl acetate:hexane as eluants to give the title compound as a pink oil (184 mg, 88% yield).

reactant | N-(6-methylthioquinolin-5-yl)-2-bromodecanamide | 0.47 mmol, 200 mg | CSC=1C(=C2C=CC=NC2=CC1)NC(C(CCCCCCCC)Br)=O | C20H27BrN2OS
reactant | n-hexylamine | 10 ml | C(CCCCC)N | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | N-(6-methylthioquinolin-5-yl)-2-hexylaminodecanamide | 184 mg, 88% yield | CSC=1C(=C2C=CC=NC2=CC1)NC(C(CCCCCCCC)NCCCCCC)=O | C26H41N3OS
